US05713988
N4 -acetyl-N1 -hexanoylsulfanilamide from the previous step was treated with sodium hydroxide (24.6 g) in D.I. water (200 mL) while heating to reflux. After 3 hours reaction time, the heating was stopped and the solution pH adjusted to 8 with 2N HCl. The solution was cooled in an ice bath and then filtered to remove sulfanilamide. The filtrate was acidified with aqueous HCl to pH 2 to precipitate the product, N1 -hexanoylsulfanilamide, 37.9 g. This material was recrystallized from hot ethanol (75 mL) and precipitated by addition of 40 mL D.I. water to afford recrystallized N1 -hexanoylsulfanilamide, 24.8 g (43% overall yield). H1 -NMR indicated a purity >90%.

reactant | N4 -acetyl-N1 -hexanoylsulfanilamide | C(C)(=O)NC1=CC=C(S(=O)(=O)NC(CCCCC)=O)C=C1 | C14H20N2O4S
reactant | sodium hydroxide | 24.6 g | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | water | 200 mL | O | H2O
product | N1 -hexanoylsulfanilamide | C(CCCCC)(=O)NS(=O)(C1=CC=C(C=C1)N)=O | C12H18N2O3S
